US08202885B2
To a solution of 2.4 mL of formaldehyde (36.5% in water), 3.1 mL of aniline and 1.0 g of (S)-proline in 125 mL of DMSO was added 6.0 mL of 2-cyclohexen-1-one. The mixture was stirred for 72 h at rt, quenched with water and extracted with toluene. The organic phase was dried over anh. Na2SO4 and concentrated in vacuo. The crude product was purified by CC using EtOAc/heptane 1/5 to 1/3 to yield 1.1 g of (1S,4S)-2-phenyl-2-aza-bicyclo[2.2.2]octan-5-one a as yellow oil.

reactant | formaldehyde | 2.4 mL | C=O | CH2O
reactant | aniline | 3.1 mL | NC1=CC=CC=C1 | C6H7N
reactant | (S)-proline | 1.0 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-cyclohexen-1-one | 6.0 mL | C1(C=CCCC1)=O | C6H8O
solvent | DMSO | 125 mL | CS(=O)C | C2H6OS
product | (1S,4S)-2-phenyl-2-aza-bicyclo[2.2.2]octan-5-one | 1.1 g | C1(=CC=CC=C1)N1[C@@H]2CC([C@H](C1)CC2)=O | C13H15NO
